US07612075B2
A. (5-Chloro-thiophen-2-yl)-benzaldehyde
4-Formylphenylboronic acid (1.37 g, 9.15 mmol), 2-bromo-5-chlorothiophene (1 mL, 9.15 mmol), 2M Na2CO3 (9 mL, 18.3 mmol) and Pd(PPh3)4 (0.53 mg, 0.46 mmol) in DME (30 mL) are heated to reflux for 4 h after which time the reaction mixture is concentrated in vacuo and taken up in EtOAc. The organic solution is washed with water (×2) then brine and dried over MgSO4, filtered and concentrated to dryness. The crude residue is purified by chromatography using 5% EtOAc/hexanes as the eluent to yield a yellow solid (1.8 g, 8.1 mmol) as the title compound. EI MS [M]+=222, 224, Cl pattern.

reactant | 4-Formylphenylboronic acid | 9.15 mmol, 1.37 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | 2-bromo-5-chlorothiophene | 9.15 mmol, 1 mL | BrC=1SC(=CC1)Cl | C4H2BrClS
reactant | Na2CO3 | 18.3 mmol, 2M, 9 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 30 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.46 mmol, 0.53 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5-Chloro-thiophen-2-yl)-benzaldehyde | ClC1=CC=C(S1)C1=C(C=O)C=CC=C1 | C11H7ClOS
